US06399629B1
(D) trans-4-Glycylamino-L-Prolyl-D-Homophenylalanine 3-Quinolylamide Trihydrochloride
A solution of 4 N hydrogen chloride in 1,4-dioxane (10 mL) was added to a solution of trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl-D-homophenylalanine 3-quinolylamide (C, 162 mg) in methanol (10 mL) at 0° C. After stirring at 0° C. for 5 min and at room temperature for 3 hr, the solution was concentrated in vacuo. The residue was purified by HPLC(Shiseido, Capcell Pak C18 UG120, 3 cm×25 cm, 0.02 N hydrochloric acid: methanol=65:35, v/v) and freeze-dried from water to afford the title compound (90 mg) as a pale yellow powder: 1H NMR (400 MHz, D2O) δ 2.18-2.43 (m, 3H), 2.43-2.57 (m, 1H), 2.74-2.96 (m, 2H), 3.40 (dd, J=12.2,4.4 Hz, 1H), 3.76-3.87 (m, 3H), 4.45-4.60 (m, 2H), 4.61-4.73 (m, 1H), 7.01-7.17 (m, 1H), 7.17-7.31 (m, 4H), 7.86 (t, J=7.8 Hz, 1H), 8.00 (t, J=7.8 Hz, 1H), 8.04-8.19 (m, 2H), 8.81 (s, 1H), and 9.15 (s, 1H); IR (KBr) 3388, 3205, 3037, 1685, 1681, 1610, 1571, 1552, 1496, 1486, and 1454 cm−1; mass spectrum (EI+) m/e 474 (M+); (FAB+) m/e 475 (M+1); Anal. Calcd for 26H30N6O3.3HCl.3H2O: C, 48.95; H, 6.16; N, 13.17. Found: C, 49.16; H, 5.90; N, 13.15.

reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl-D-homophenylalanine 3-quinolylamide | 162 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H](NC([C@H]1N(C[C@@H](C1)NC(CNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CCC1=CC=CC=C1)=O | C36H46N6O7
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | trans-4-Glycylamino-L-Prolyl-D-Homophenylalanine 3-Quinolylamide Trihydrochloride | 90 mg | Cl.Cl.Cl.N1=CC(=CC2=CC=CC=C12)NC([C@H](NC([C@H]1NC[C@@H](C1)NC(CN)=O)=O)CCC1=CC=CC=C1)=O | InChI=1S/C26H30N6O3.3ClH/c27-14-24(33)30-20-13-23(29-16-20)26(35)32-22(11-10-17-6-2-1-3-7-17)25(34)31-19-12-18-8-4-5-9-21(18)28-15-19;;;/h1-9,12,15,20,22-23,29H,10-11,13-14,16,27H2,(H,30,33)(H,31,34)(H,32,35);3*1H/t20-,22-,23+;;;/m1.../s1
